US07960409B2
Step 3: 7-(azidomethyl)-2-chloro-4-(4-fluorophenyl)quinoline
A solution of 7-(bromomethyl)-2-chloro-4-(4-fluorophenyl)quinoline (1.0 g, 2.9 mmol) and sodium azide (204 mg, 3.1 mmol) in ethanol (40 mL) was refluxed for 16 h. The solution was concentrated and dichloromethane was added. The mixture was filtered, and concentrated to give the title compound. MS (+ESI): 313 (M+H)+.

reactant | 7-(bromomethyl)-2-chloro-4-(4-fluorophenyl)quinoline | 2.9 mmol, 1.0 g | BrCC1=CC=C2C(=CC(=NC2=C1)Cl)C1=CC=C(C=C1)F | C16H10BrClFN
reactant | sodium azide | 3.1 mmol, 204 mg | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 7-(azidomethyl)-2-chloro-4-(4-fluorophenyl)quinoline | N(=[N+]=[N-])CC1=CC=C2C(=CC(=NC2=C1)Cl)C1=CC=C(C=C1)F | C16H10ClFN4
